US06362177B1
To a mixture of 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine (20.4 mg, 0.037 mmol), 37% HCHO solution (3.0 mg, 0.037 mmol), acetic acid (0.10 mL) and methanol (1.3 mL) was added NaBH3CN (7.0 mg) in methanol (0.2 mL). The reaction mixture was stirred at 60° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH (5 mL×2). Product was eluted off using 2 N NH3 in CH3OH (8 mL) and concentrated to give 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3-methylamino-4-hydroxybenzyl)piperidine.

reactant | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3-amino-4-hydroxybenzyl)piperidine | 0.037 mmol, 20.4 mg | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)O)N)C=C(C(=C1)F)F | C27H35F2N5O5
reactant | HCHO | 0.037 mmol, 3.0 mg | C=O | CH2O
reactant | acetic acid | 0.10 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 7.0 mg | [BH3-]C#N.[Na+]
solvent | methanol | 0.2 mL | CO | CH4O
solvent | methanol | 1.3 mL | CO | CH4O
product | 4-[{N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl}aminomethyl]-1-(3-methylamino-4-hydroxybenzyl)piperidine | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)NCC2CCN(CC2)CC2=CC(=C(C=C2)O)NC)C=C(C(=C1)F)F | C28H37F2N5O5
